US05053507
In methanol was dissolved 5 g (0.016 mole) of trans-2-(p-methoxycarbonylphenyl)-5-heptyl-1,3-dioxane, to which 1.2 equivalents of potassium hydroxide was added, and the mixture was refluxed for 8 hours with heating. After distilling methanol under reduced pressure, 300 ml of ethyl acetate was added to the residue, and the mixture was neutralized with 10% aqueous solution of hydrochloric acid while cooling at a temperature of -10° C. Then, the organic layer was concentrated and was recrystallized from methanol to give 4.2 g of trans-2-(p-hydroxycarbonylphenyl)-5-heptyl-1,3dioxane (yield: 86%).

reactant | trans-2-(p-methoxycarbonylphenyl)-5-heptyl-1,3-dioxane | 0.016 mole, 5 g | COC(=O)C1=CC=C(C=C1)[C@@H]1OC[C@H](CO1)CCCCCCC | C19H28O4
reactant | potassium hydroxide | 1.2 equivalents | [OH-].[K+]
solvent | methanol | CO | CH4O
product | trans-2-(p-hydroxycarbonylphenyl)-5-heptyl-1,3dioxane | 4.2 g, yield: 86% | OC(=O)C1=CC=C(C=C1)[C@@H]1OC[C@H](CO1)CCCCCCC | C18H26O4
